US08558001B2
2,6-Dichloro-4-hydroxybenzaldehyde (0.5 g, 2.62 mmol), 1-bromo-2-methoxyethone (0.3 mL), sodium iodide (0.4 g, 0.4 mmol) and potassium carbonate (0.9 g, 6.55 mmol) were added in DMF (5 mL) and heated at 100° C. for 1 h under stirring. When the reaction was done, the reaction mixture was diluted with EtOAc and extracted three times with water. The organic phase was dried over magnesium sulfate, filtered and concentrated in vacuum. The resulting solid was purified by normal phase chromatography (hexanes:EtOAc 3:1) to afford 2,6-dichloro-4-(2-methoxyethoxy)benzaldehyde.

reactant | 2,6-Dichloro-4-hydroxybenzaldehyde | 2.62 mmol, 0.5 g | ClC1=C(C=O)C(=CC(=C1)O)Cl | C7H4Cl2O2
reactant | sodium iodide | 0.4 mmol, 0.4 g | [I-].[Na+]
reactant | potassium carbonate | 6.55 mmol, 0.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2,6-dichloro-4-(2-methoxyethoxy)benzaldehyde | ClC1=C(C=O)C(=CC(=C1)OCCOC)Cl | C10H10Cl2O3
